US08048878B2
Synthesis of 5-(3,4-difluorophenyl)-7-hydroxyhexahydroindolizin-3-one
Sodium borohydride (644 mg) was added to a solution of 5-(3,4-difluorophenyl)hexahydroindolizine-3,7-dione obtained above (1.4 g) in ethanol (20 mL) at room temperature, and the reaction solution was stirred for one hour. The reaction solution was added to ice water, followed by extraction with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure to obtain 1.5 g of the title compound. The property value of the compound is as follows.

reactant | Sodium borohydride | 644 mg | [BH4-].[Na+]
reactant | 5-(3,4-difluorophenyl)hexahydroindolizine-3,7-dione | FC=1C=C(C=CC1F)C1N2C(CCC2CC(C1)=O)=O | C14H13F2NO2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-(3,4-difluorophenyl)-7-hydroxyhexahydroindolizin-3-one | 1.5 g | FC=1C=C(C=CC1F)C1N2C(CCC2CC(C1)O)=O | C14H15F2NO2
